US07700655B2
(1) 2-Amino-4-(2,3,4,5,6-pentafluorophenyl)thiazole
Using 2′,3′,4′,5′,6′-pentafluoroacetophenone and thiourea as the raw materials, the same operation as the Example 395(1) gave the title compound.

reactant | 2′,3′,4′,5′,6′-pentafluoroacetophenone | FC1=C(C(=C(C(=C1F)F)F)F)C(C)=O | C8H3F5O
reactant | thiourea | NC(=S)N | CH4N2S
product | 2-Amino-4-(2,3,4,5,6-pentafluorophenyl)thiazole | Yield: 86.7% | NC=1SC=C(N1)C1=C(C(=C(C(=C1F)F)F)F)F | C9H3F5N2S
